US04585774
20 Grams of o-methoxycarbonyl- -[4-(3,4-dimethoxybenzoyl)-1-piperazinyl]acetanilide, 400 ml of methanol and 25 ml of 3.5N-potassium hydroxide methanol solution were mixed together and the mixture was refluxed for 8.5 hours. After completion of the reaction, the reaction mixture was allowed to stand for cooling, then an ethanol solution of hydrochloric acid was added to the mixture to adjust the pH thereof to about 1. The crystals formed were removed by filtration, and the mother liquor was cooled by ice. The crystals were collected by filtration, recrystallized from 80% water-containing methanol to obtain 13.28 g of o-carboxy- -[4-(3,4-dimethoxybenzoyl)-1-piperazinyl]acetanilide monohydrochloride in the form of colorless cotton fiber-like crystals. Melting point: 250.5°-251.5° C. (decomposed).

reactant | o-methoxycarbonyl- -[4-(3,4-dimethoxybenzoyl)-1-piperazinyl]acetanilide | COC(=O)C1=C(NC(CN2CCN(CC2)C(C2=CC(=C(C=C2)OC)OC)=O)=O)C=CC=C1 | C23H27N3O6
reactant | methanol | 400 ml | CO | CH4O
reactant | potassium hydroxide methanol | CO.[OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | o-carboxy- -[4-(3,4-dimethoxybenzoyl)-1-piperazinyl]acetanilide monohydrochloride | 13.28 g | Cl.C(=O)(O)C1=C(NC(CN2CCN(CC2)C(C2=CC(=C(C=C2)OC)OC)=O)=O)C=CC=C1 | InChI=1S/C22H25N3O6.ClH/c1-30-18-8-7-15(13-19(18)31-2)21(27)25-11-9-24(10-12-25)14-20(26)23-17-6-4-3-5-16(17)22(28)29;/h3-8,13H,9-12,14H2,1-2H3,(H,23,26)(H,28,29);1H
